US05204353
70,5 g (0.3 mol) of 5-amino-1-(2-fluorobenzyl)-1H-1,2,3-triazole-4-carboxamide and 339 g (300 ml; 7.53 mol) of formamide are heated at a gentle boil for 2 hours. The reaction solution is then allowed to cool to approximately 100° and poured onto 2 l of ice-water. The precipitated product is filtered off with suction and washed with water. Drying at 100° yields 3-(2-fluorobenzyl)-3H,6H,7H-1,2,3-triazolo[4,5-d]pyrimidin-7-one having a melting point of 215°-218°.

reactant | 5-amino-1-(2-fluorobenzyl)-1H-1,2,3-triazole-4-carboxamide | 0.3 mol, 70,5 g | NC1=C(N=NN1CC1=C(C=CC=C1)F)C(=O)N | C10H10FN5O
reactant | formamide | 7.53 mol, 300 ml, 339 g | C(=O)N | CH3NO
product | 3-(2-fluorobenzyl)-3H,6H,7H-1,2,3-triazolo[4,5-d]pyrimidin-7-one | FC1=C(CN2N=NC3=C2N=CNC3=O)C=CC=C1 | C11H8FN5O
